US08748429B2
tert-butyl (4R,7S,8S)-7-(2,3-difluorophenyl)-4-hydroxy-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-8-ylcarbamate
Sodium borohydride (9.93 mg, 0.262 mmol) was added to a methanol (5 mL) solution of tert-butyl (7S,8S)-7-(2,3-difluorophenyl)-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-8-ylcarbamate (34.5 mg, 0.087 mmol) at rt. The reaction was stirred for 0.5 h. The solvent was removed under vacuum and the product was purified by prep TLC developed with ethyl acetate in hexane (50%). There were two bands collected. The less polar was the desired product (20.1 mg. 58%): LCMS: M+H=397.24; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.57 (1H, s), 7.03-7.09 (3H, m), 5.16-5.23 (1H, m), 4.94-5.00 (1H, m), 4.85-4.91 (1H, m), 4.26 (1H, s), 3.28-3.36 (1H, m), 2.19-2.36 (3H, m), 1.64-1.69 (1H, m), 1.26-1.29 (8H, m).

reactant | Sodium borohydride | 0.262 mmol, 9.93 mg | [BH4-].[Na+]
reactant | tert-butyl (7S,8S)-7-(2,3-difluorophenyl)-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-8-ylcarbamate | 0.087 mmol, 34.5 mg | FC1=C(C=CC=C1F)[C@H]1[C@@H](C2=C(N=CS2)C(CC1)=O)NC(OC(C)(C)C)=O | C19H20F2N2O3S
solvent | methanol | 5 mL | CO | CH4O
product | tert-butyl (4R,7S,8S)-7-(2,3-difluorophenyl)-4-hydroxy-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-8-ylcarbamate | FC1=C(C=CC=C1F)[C@H]1[C@@H](C2=C(N=CS2)[C@@H](CC1)O)NC(OC(C)(C)C)=O | C19H22F2N2O3S
